US04282158
2 parts of [(tetrahydro-2H-pyran-2-ylidene)methyl] triphenylphosphonium chloride and 1.85 parts of 3-bromobenzaldehyde were combined in 45 parts of xylene. This was maintained under a nitrogen atmosphere and was refluxed for 3 hours. After the reaction mixture was cooled to room temperature, xylene was removed at a temperature of about 60° C. and under reduced pressure, leaving a product mixture. This mixture was separated chromatographically on a silica column using benzene as the elution solvent, to yield 1-(3-bromophenyl)-7-chloro-1-hepten-3-one.

reactant | [(tetrahydro-2H-pyran-2-ylidene)methyl] triphenylphosphonium chloride | [Cl-].O1C(CCCC1)=C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(3-bromophenyl)-7-chloro-1-hepten-3-one | BrC=1C=C(C=CC1)C=CC(CCCCCl)=O | C13H14BrClO
